US07906517B2
Tert-butyl 4-{2-[(4-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-2-ylmethyl)-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (1.0 g) is dissolved in ethanol (20 ml), and thereto is added 10% palladium-carbon (200 mg), and the mixture is stirred under hydrogen atmosphere at room temperature for 4 hours. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure, and thereto is added hexane and the resulting crystal is filtered to give tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-hydroxy-5′-isopropyl-2′-methoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate (835 mg). MS (m/z): 734 [M+H]+

reactant | Tert-butyl 4-{2-[(4-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-2-ylmethyl)-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 1.0 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)C(C)C)OC)CN(C1=NC=C(C=N1)OCCCC(=O)OC(C)(C)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C45H47F6N3O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(4-hydroxy-5′-isopropyl-2′-methoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate | 835 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=CC(=C2)O)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C38H41F6N3O5
